US07241791B2
Step 2: 4-(7-fluoro-1-isopropyl-1H-indazole-3-yl)-3-methylphenol
Prepared according to Method D step C from 7-fluoro-1-isopropyl-3-(4-methoxy-2-methylphenyl)-1H-indazole (0.151 g, 0.500 mmol), boron tribromide (0.118 mL, 1.25 mmol) and 1.0 mL of cyclohexene to give the product (0.144 g) as a white solid.

reactant | 7-fluoro-1-isopropyl-3-(4-methoxy-2-methylphenyl)-1H-indazole | 0.500 mmol, 0.151 g | FC=1C=CC=C2C(=NN(C12)C(C)C)C1=C(C=C(C=C1)OC)C | C18H19FN2O
reactant | boron tribromide | 1.25 mmol, 0.118 mL | B(Br)(Br)Br | BBr3
reactant | cyclohexene | 1.0 mL | C1=CCCCC1 | C6H10
product | 4-(7-fluoro-1-isopropyl-1H-indazole-3-yl)-3-methylphenol | 0.144 g | FC=1C=CC=C2C(=NN(C12)C(C)C)C1=C(C=C(C=C1)O)C | C17H17FN2O
